US07851473B2
(1) 2-Bromo-1-(3-chlorophenyl)ethanone
Bromine (5.17 g, 32.3 mmol) was slowly added dropwise to a solution of 1-(3-chlorophenyl)ethanone (5.00 g, 32.3 mmol) in diethyl ether (100 ml), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was distilled off under reduced pressure, and the desired product was obtained quantitatively as an oil.

reactant | Bromine | 32.3 mmol, 5.17 g | BrBr | Br2
reactant | 1-(3-chlorophenyl)ethanone | 32.3 mmol, 5.00 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Bromo-1-(3-chlorophenyl)ethanone | BrCC(=O)C1=CC(=CC=C1)Cl | C8H6BrClO
